US06110929
Thiazolo[4,5-c]quinoline-2-thiol (8.7 g, 0.04 mole) was suspended in a solution of sodium hydroxide (1.4 g, 0.04 mole) in water. A few drops of 50% sodium hydroxide were added to the suspension until most of the solid dissolved. Hydrogen peroxide (13.5 mL of 30%, 0.08 mole) was added dropwise over a period of 30 minutes while maintaining the temperature of the reaction mixture at 25-35° C. with a cold water bath. The bath was removed and the reaction mixture was stirred for 15 minutes. Sulfuric acid (2.5 g of 95.98%) was added dropwise to the reaction mixture. After 30 minutes the reaction was made basic (pH 9-9.5) with 50% sodium hydroxide. The reaction mixture was acidified (pH 2.5) with hydrochloric acid, a tan solid precipitated. The mixture was then heated on a steam bath for 15 minutes and the precipitate dissolved. The solution was allowed to cool to ambient temperature and a precipitate formed. The mixture was made basic (pH 9) with 50% sodium hydroxide. The resulting oily product was extracted with ethyl acetate. The extracts were combined, washed with water, dried over magnesium sulfate and then concentrated under vacuum to provide 3.3 g of thiazolo[4,5-c]quinoline as a tan solid, m.p. 104.4-105° C. Analysis: Calculated for C10H6N2S: % C, 64.19; % H, 3.25; % N, 15.04; Found: % C, 64.15; % H, 3.26; % N, 14.9.

reactant | Thiazolo[4,5-c]quinoline-2-thiol | 0.04 mole, 8.7 g | S1C(=NC=2C=NC=3C=CC=CC3C21)S | C10H6N2S2
reactant | sodium hydroxide | 0.04 mole, 1.4 g | [OH-].[Na+]
reactant | Hydrogen peroxide | 0.08 mole, 13.5 mL | OO | H2O2
solvent | water | O | H2O
catalyst | sodium hydroxide | A few drops | [OH-].[Na+]
product | thiazolo[4,5-c]quinoline | 3.3 g | S1C=NC=2C=NC=3C=CC=CC3C21 | C10H6N2S
